US05541032
Preparation of 4-methylphenacylpyridinium tetrafluoroborate
30 g (0.1 mol) of 4-methylphenacylpyridinium bromide in 120 ml of water were initially taken and heated to 60° C. 11 g (0.1 mol) of sodium tetrafluoroborate were then added and the mixture was slowly cooled to room temperature. It was stirred for a further hour at room temperature, and the precipitated product was filtered off and washed with water. After drying, 22.2 g (corresponding to a yield of 74%) of the title compound were obtained in the form of a yellow solid. The purity of the product was more than 99%.

reactant | 4-methylphenacylpyridinium bromide | 0.1 mol, 30 g | [Br-].CC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1
reactant | sodium tetrafluoroborate | 0.1 mol, 11 g | F[B-](F)(F)F.[Na+]
solvent | water | 120 ml | O | H2O
product | 4-methylphenacylpyridinium tetrafluoroborate | yield of 74% | F[B-](F)(F)F.CC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C14H14NO.BF4/c1-12-5-7-13(8-6-12)14(16)11-15-9-3-2-4-10-15;2-1(3,4)5/h2-10H,11H2,1H3;/q+1;-1
